US07238716B2
To a solution of 2-methylamino-4-phenylthiazole (1.76 g) in N,N-dimethylformamide (25 mL) was gradually added sodium hydride (60%, oil, 351 mg) at room temperature and the mixture was stirred for 30 min. Methyl 4-bromobenzoate (2.11 g) was added, and the mixture was further stirred for 1.5 hrs. To the reaction mixture was added water and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give methyl 4-[methyl(4-phenyl-2-thiazolyl)aminomethyl]benzoate (2.56 g, 86%) as a yellow oil from a fraction eluted with ethyl acetate-hexane (1:3, v/v).

reactant | 2-methylamino-4-phenylthiazole | 1.76 g | CNC=1SC=C(N1)C1=CC=CC=C1 | C10H10N2S
reactant | sodium hydride | 351 mg | [H-].[Na+]
reactant | Methyl 4-bromobenzoate | 2.11 g | BrC1=CC=C(C(=O)OC)C=C1 | C8H7BrO2
reactant | water | O | H2O
reactant | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | methyl 4-[methyl(4-phenyl-2-thiazolyl)aminomethyl]benzoate | 2.56 g, 86% | CC(C1=CC=C(C(=O)OC)C=C1)NC=1SC=C(N1)C1=CC=CC=C1 | C19H18N2O2S
